US04329518
During a five minute period a solution of 3-methyl-[1,1'-biphenyl]-2-amine (5.8 g, 0.0316 mole) in 15 ml of dry acetonitrile was added to a stirred mixture of anhydrous copper (II) chloride (7.5 g, 0.038 mole) and isoamyl nitrite (5.55 g, 0.0474 mole) in 100 ml of anhydrous acetonitrile. The reaction mixture was stirred at room temperature for two hours, 65° for two hours, then room temperature for two days. The mixture was diluted with 600 ml of 2 N aqueous hydrochloric acid and extracted with two 150 ml portions of diethyl ether. The extracts were combined, washed with 200 ml of 2 N aqueous hydrochloric acid, and dried over anhydrous magnesium sulfate. The mixture was filtered and the filtrate evaporated under reduced pressure to give an oil. The oil was purified by column chromatography on silica gel to give 2-chloro-3-methyl-[1,1'-biphenyl] (0.4 g).

reactant | 3-methyl-[1,1'-biphenyl]-2-amine | 0.0316 mole, 5.8 g | CC1=C(C(=CC=C1)C1=CC=CC=C1)N | C13H13N
reactant | isoamyl nitrite | 0.0474 mole, 5.55 g | N(=O)OCCC(C)C | C5H11NO2
reactant | hydrochloric acid | 2 N, 600 ml | Cl | ClH
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
catalyst | copper (II) chloride | 0.038 mole, 7.5 g | [Cu](Cl)Cl
product | 2-chloro-3-methyl-[1,1'-biphenyl] | 0.4 g | ClC1=C(C=CC=C1C)C1=CC=CC=C1 | C13H11Cl
